US06756378B2
To a stirred solution of p-iodophenol (20.0 g, 90.9 mmol) in 1) in DMF (200 mL) was added 1,4-diazabicyclo[2,2,2]octane (20.4 g, 181.8 mmol) and dimethylthiocarbamoyl chloride (16.9 g, 136.4 mmol). The resulting solution was stirred for 3.5 hr at 75° C. After cooling, 300mL of water was added. The solid was collected with suction and was dissolved in EtOAc. The EtOAc layer was washed with water, dried over Na2SO4, and evaporated under a reduced pressure. The crude solid was recrystallized from H2O to give the 26.75 g (96%) O-p-iodophenyl dimethylthiocarbamate as a pale a yellow crystalline powder. IR (KBr) 1479, 1207, 827 cm−1; 1H-NMR (400 MHz, CDCl3) δ3.37 (s, 3H), 3.45 (s, 3H), 6.83 (d, J=8.8 Hz, 2H), 7.69 (d, J=8.3 Hz, 2H); MS (FAB) m/z 307 (M++1); Anal. Calcd. for C9H10INOS: C, 35.19; H, 3.28; N, 4.56. Found: C, 35.17; H, 3.35; N, 4.44.

reactant | p-iodophenol | 90.9 mmol, 20.0 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 1,4-diazabicyclo[2,2,2]octane | 181.8 mmol, 20.4 g | N12CCN(CC1)CC2 | C6H12N2
reactant | dimethylthiocarbamoyl chloride | 136.4 mmol, 16.9 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | water | 300mL | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | O-p-iodophenyl dimethylthiocarbamate | 26.75 g, 96% | CN(C(OC1=CC=C(C=C1)I)=S)C | C9H10INOS
